US04322420
7-Chloro-4-(N-ethylanilino)quinazoline hydrochloride (Compound No. 58)
A mixture of 3.0 g of 4,7-dichloroquinazoline and 2.0 g of N-ethylaniline in 10 ml of ethanol was heated for 5 minutes. After completion of the reaction the reaction mixture was cooled, whereupon crystals separated. These were collected by filtration and recrystallized from a small amount of ethanol to give 2.0 g (yield 47%) of the desired Compound No. 58 in the form of pale yellow needles melting at 222°-226° C. (with decomposition).

reactant | 4,7-dichloroquinazoline | 3.0 g | ClC1=NC=NC2=CC(=CC=C12)Cl | C8H4Cl2N2
reactant | N-ethylaniline | 2.0 g | C(C)NC1=CC=CC=C1 | C8H11N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 7-Chloro-4-(N-ethylanilino)quinazoline hydrochloride | 2.0 g, yield 47% | Cl.ClC1=CC=C2C(=NC=NC2=C1)N(C1=CC=CC=C1)CC | InChI=1S/C16H14ClN3.ClH/c1-2-20(13-6-4-3-5-7-13)16-14-9-8-12(17)10-15(14)18-11-19-16;/h3-11H,2H2,1H3;1H
